US06413995B1
95 mg of 3-(4-hydroxyphenyl)-3-phenyl-N-(3-pyridylmethyl)acrylamide was reacted with 2 ml of dimethylformamide, 48 mg of anhydrous potassium carbonate and 0.04 ml of ethyl chlorocarbonate for 4 hours under a stream of argon. The reaction mixture was extracted with ethyl acetate three times, washed twice with water and once with brine, and then dried over anhydrous magnesium sulfate. The drying agent was filtered off and the filtrate was evaporated and purified via column chromatography on silica gel (chloroform:methanol=20:1) to give ethyl [4-[1-phenyl-2-[N-(3-pyridylmethyl)carbamoyl]ethenyl]phenoxy]acetate (140 mg, yield: 100%) as an oil.

reactant | 3-(4-hydroxyphenyl)-3-phenyl-N-(3-pyridylmethyl)acrylamide | 95 mg | OC1=CC=C(C=C1)C(=CC(=O)NCC=1C=NC=CC1)C1=CC=CC=C1 | C21H18N2O2
reactant | potassium carbonate | 48 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl chlorocarbonate | 0.04 ml | C(OCC)(=O)Cl | C3H5ClO2
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | ethyl [4-[1-phenyl-2-[N-(3-pyridylmethyl)carbamoyl]ethenyl]phenoxy]acetate | 140 mg, yield: 100% | C1(=CC=CC=C1)C(=CC(NCC=1C=NC=CC1)=O)C1=CC=C(OCC(=O)OCC)C=C1 | C25H24N2O4
